US04820821
6.0 g (28.9 millimoles) of 1,4-dihydro-4-imino-1-phenylpyridazine hydrochloride in 50 ml of phenylacetyl chloride were kept at 120° C. for 6 hours, while stirring. The mixture was cooled and then evaporated down, and the residue was treated with methanol/methyl tert.-butyl ether. The solid was filtered off under suction and recrystallized first from ethanol and then from ethanol/acetone with the addition of active charcoal. 3.9 g (41% of theory) of 1,4-dihydro-1-phenyl-4-[(phenylacetyl)-imino]-pyridazine hydrochloride were isolated as pale beige crystals of melting point 208°-210° C.

reactant | 1,4-dihydro-4-imino-1-phenylpyridazine hydrochloride | 28.9 millimoles, 6.0 g | Cl.N=C1C=NN(C=C1)C1=CC=CC=C1
reactant | phenylacetyl chloride | 50 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | 1,4-dihydro-1-phenyl-4-[(phenylacetyl)-imino]-pyridazine hydrochloride | 3.9 g, 41% | Cl.C1(=CC=CC=C1)N1N=CC(C=C1)=NC(CC1=CC=CC=C1)=O | InChI=1S/C18H15N3O.ClH/c22-18(13-15-7-3-1-4-8-15)20-16-11-12-21(19-14-16)17-9-5-2-6-10-17;/h1-12,14H,13H2;1H
